US05302192
Following the general procedure of Siadat and Lenz, J. Polym. Sci., Polym. Chem. Ed., 18, 3273 (1980), styrenesulphonyl chloride (8.1 g) was dissolved in anhydrous diethyl ether (75 ml) and the solution cooled to -10° C. To this was added methanol (1.5 ml) and powdered potassium hydroxide (5.9 g) over 10 minutes with vigorous stirring and the mixture was allowed to rise to room temperature over 41/2 hours. The resultant yellow-orange suspension was poured onto iced-water. This was extracted with ether and the extract washed with water, dried with magnesium sulphate and evaporated to give a yellow oil of methyl styrene sulphonate (4.3 g, 54%), MONOMER 2.

reactant | styrenesulphonyl chloride | 8.1 g | C(=CC1=CC=CC=C1)S(=O)(=O)Cl | C8H7ClO2S
reactant | methanol | 1.5 ml | CO | CH4O
reactant | potassium hydroxide | 5.9 g | [OH-].[K+]
reactant | water | O | H2O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | methyl styrene sulphonate | 4.3 g, 54% | C(=CC1=CC=CC=C1)S(=O)(=O)OC | C9H10O3S
